US08895547B2
2-Methoxy-6,6-dimethyl-5-(4-morpholin-4-ylphenyl)-5,6-dihydro-[1,4,3]oxathiazine 4,4-dioxide
2-Hydroxy-2-methyl-1-(4-morpholin-4-ylphenyl)propane-1-sulfonamide (41 mg) was stirred with tetramethyl orthocarbonate (0.2 ml), glacial acetic acid (0.01 ml) and dioxane (0.1 ml) at 90° C. for 4 hours. The solvents were removed under reduced pressure and the residue was used further without further purification.

reactant | 2-Hydroxy-2-methyl-1-(4-morpholin-4-ylphenyl)propane-1-sulfonamide | 41 mg | OC(C(S(=O)(=O)N)C1=CC=C(C=C1)N1CCOCC1)(C)C | C14H22N2O4S
reactant | tetramethyl orthocarbonate | 0.2 ml | C(OC)(OC)(OC)OC | C5H12O4
reactant | acetic acid | 0.01 ml | C(C)(=O)O | C2H4O2
solvent | dioxane | 0.1 ml | O1CCOCC1 | C4H8O2
product | 2-Methoxy-6,6-dimethyl-5-(4-morpholin-4-ylphenyl)-5,6-dihydro-[1,4,3]oxathiazine 4,4-dioxide | COC=1OC(C(S(N1)(=O)=O)C1=CC=C(C=C1)N1CCOCC1)(C)C | C16H22N2O5S
